US04472383
Cyclopentanone (10 g) and glycine ethyl ester hydrochloride (21.6 g) are dissolved in 200 ml of methanol, and 7.48 g of sodium cyanoborohydride is added in small portions with stirring at room temperature. The mixture is further stirred at room temperature for 3 hours and the reaction mixture is concentrated under reduced pressure. To the residue is added 500 ml of water and the mixture is adjusted to pH 10 with diluted sodium hydroxide solution and extracted with 300 ml of ethyl acetate. The extract is washed with saturated aqueous sodium chloride and dried over sodium sulfate. The solvent is then distilled off under reduced pressure and the resulting oily product is dissolved in 200 ml of ether, followed by addition of 10 ml of 10% alcoholic hydrochloride, whereupon crystals immediately separates out. The crystals are collected by filtration to give 12.7 g of N-cyclopentylglycine ethyl ester hydrochloride as colorless needles melting at 174°-175° C.

reactant | Cyclopentanone | 10 g | C1(CCCC1)=O | C5H8O
reactant | glycine ethyl ester hydrochloride | 21.6 g | Cl.C(C)OC(CN)=O
reactant | sodium cyanoborohydride | 7.48 g | C(#N)[BH3-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | N-cyclopentylglycine ethyl ester hydrochloride | 12.7 g | Cl.C(C)OC(CNC1CCCC1)=O | InChI=1S/C9H17NO2.ClH/c1-2-12-9(11)7-10-8-5-3-4-6-8;/h8,10H,2-7H2,1H3;1H
